US07622583B2
A solution of 4-chloro-N-[5-chloro-2-(2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (50 mg) in 3 mL HCl (4 M in dioxane) and water (1 mL) was refluxed for 2 h. Upon cooling to room temperature, the mixture was concentrated and the residue was purified via preparative TLC (50% EtOAc in hexane) to afford 4-chloro-N-[5-chloro-2-(2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide (27.0 mg) as an off white solid. MS m/z: 532.2 (M+H).

reactant | 4-chloro-N-[5-chloro-2-(2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 50 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)N1CCOC2=C1C=CC=C2)C(F)(F)F | C23H18Cl2F3N3O5S
solvent | HCl | 4 M, 3 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 4-chloro-N-[5-chloro-2-(2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 27.0 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)N1CCOC2=C1C=CC=C2)C(F)(F)F | C21H14Cl2F3N3O4S
